US09126950B2
Synthesis of tert-butyl (3-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)carbamate
tert-Butyl (3-((2-chloro-5-fluoropyrimidin-4-yl)amino)phenyl)carbamate (800 mg, 2.37 mmoL) and 4-(2-methoxyethoxy)aniline (576 mg, 2.84 mmoL) were suspended in tert-amyl alcohol (14 mL) and acetic acid (5 drops). Heated to reflux for 4 h. After cooling, solvent was removed via rotary evaporation. The dark oil was partitioned between water/brine and THF (10 mL each), agitated, and separated layers and dried organic phase over sodium sulfate. The solvent was removed via rotary evaporation to afford a purple solid, 0.55 g. LC/MS (RT=2.997/(M+1)) 470.2. Additional 150 mg of product minus the (BOC) protecting group crystallized from the aqueous layer

reactant | tert-Butyl (3-((2-chloro-5-fluoropyrimidin-4-yl)amino)phenyl)carbamate | 800 mg | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O)F | C15H16ClFN4O2
reactant | 4-(2-methoxyethoxy)aniline | 576 mg | COCCOC1=CC=C(N)C=C1 | C9H13NO2
solvent | tert-amyl alcohol | 14 mL | C(C)(C)(CC)O | C5H12O
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | tert-butyl (3-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)carbamate | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCOC)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C24H28FN5O4
